US05658933
Methyl 5-(((4-n-hexyloxyphenyl)amino)carbonyl)-3-methoxypyridine-2-carboxylate was prepared from methyl 5-carboxy-3-methoxypyridine-2-carboxylate and 4-hexyloxyaniline, m.p. 118°-119° C. (from diethyl ether).

reactant | methyl 5-carboxy-3-methoxypyridine-2-carboxylate | C(=O)(O)C=1C=C(C(=NC1)C(=O)OC)OC | C9H9NO5
reactant | 4-hexyloxyaniline | C(CCCCC)OC1=CC=C(N)C=C1 | C12H19NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 5-(((4-n-hexyloxyphenyl)amino)carbonyl)-3-methoxypyridine-2-carboxylate | C(CCCCC)OC1=CC=C(C=C1)NC(=O)C=1C=C(C(=NC1)C(=O)OC)OC | C21H26N2O5
